US09107916B2
C. 2-[5-[[4-chloro-2-[(E)-2-(4-fluorophenyl)ethenyl]phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and [4-chloro-2-[(E)-2-(4-fluorophenyl)ethenyl]phenyl]methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 5.31 (2H, s), 5.81 (1H, d, J=2.0 Hz), 6.96-7.04 (3H, m), 7.18-7.28 (3H, m), 7.35-7.39 (3H, m), 7.59 (1H, d, J=1.6 Hz), 7.63 (1H, d, J=2.4 Hz), 7.90 (1H, s), 8.51 (1H, d, J=4.8 Hz). [M+H] Calc'd for C24H16ClFN4O, 431. Found, 431.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | [4-chloro-2-[(E)-2-(4-fluorophenyl)ethenyl]phenyl]methanol | ClC1=CC(=C(C=C1)CO)\C=C\C1=CC=C(C=C1)F | C15H12ClFO
product | 2-[5-[[4-chloro-2-[(E)-2-(4-fluorophenyl)ethenyl]phenyl]methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=CC(=C(C=C1)COC1=CC=NN1C1=NC=CC(=C1)C#N)\C=C\C1=CC=C(C=C1)F | C24H16ClFN4O
